US04824958
2-(4,5-Dibromo-3-isopropylthio-2-furanyl)-4,4-dimethyloxazoline.
A solution of 9.63 g (29.81 mmol) of 2-(4,5-dibromo-2-furanyl)-4,4-dimethyloxazoline in dry tetrahydrofuran (30 mL) is added dropwise to a -78° C. solution of freshly generated lithium diisopropylamide (33.89 mmol, 1.14 equiv) in tetrahydrofuran (80 mL) under an argon atmosphere. The resulting solution is stirred at -78° C. for 10 min and a solution of 5.49 g (46.49 mmol, 1.56 equiv) of isopropyl sulfide in tetrahydrofuran (20 mL) is added dropwise to the reaction. The reaction is stirred for 3.75 hr at -78° to -10° C. and poured onto 5% aqueous HCl (350 mL). The resulting aqueous solution is extracted with diethyl ether (4X). The combined organic extracts are washed with aqueous saturated NaCl, dried (Na2SO4), and concentrated in vacuo. Flash chromatography (SiO2, 7×25 cm, 10% CH2Cl2 /10% ethyl acetate/hexane) affords 7.67 g (11.84 g theo.; 65%) of the desired product as a yellow solid. Recrystallization from hexane affords an analytical sample; mp 71°-72° C.

reactant | 2-(4,5-dibromo-2-furanyl)-4,4-dimethyloxazoline | 29.81 mmol, 9.63 g | BrC=1C=C(OC1Br)C=1OCC(N1)(C)C | C9H9Br2NO2
reactant | lithium diisopropylamide | 33.89 mmol, 1.14 equiv | C(C)(C)[N-]C(C)C.[Li+]
reactant | isopropyl sulfide | 46.49 mmol, 5.49 g, 1.56 equiv | C(C)(C)SC(C)C | C6H14S
reactant | HCl | 350 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(4,5-Dibromo-3-isopropylthio-2-furanyl)-4,4-dimethyloxazoline | BrC=1C(=C(OC1Br)C=1OCC(N1)(C)C)SC(C)C | C12H15Br2NO2S
